US04731368
Step D: Preparation of 2-Sulfamoylthieno[2,3-c]pyridin-7(6H)-one
An initial suspension of N,N-dimethyl-N'-(7-acetoxythieno[2,3-c]pyridine-2-sulfonyl)formamidine (2.0 g, 6.1 mmol) in 10 N sodium hydroxide (4 ml) diluted with water (15 ml) was warmed at 60° C. for 1 hour. This clear solution was cooled and acidified with concentrated hydrochloric acid to give a precipitate of product. This precipitate (1.2 g) was collected by filtration and dried in a vacuum oven. Recrystallization by dissolution in a minimum amount of hot dimethyl sulfoxide, followed by dilution with ethanol gave 0.76 g (54% yield) of pure product; m.p. 295°-297° C.

reactant | N,N-dimethyl-N'-(7-acetoxythieno[2,3-c]pyridine-2-sulfonyl)formamidine | 6.1 mmol, 2.0 g | CN(C=NS(=O)(=O)C1=CC=2C(=C(N=CC2)OC(C)=O)S1)C | C12H13N3O4S2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 10 N, 4 ml | [OH-].[Na+]
solvent | water | 15 ml | O | H2O
product | 2-Sulfamoylthieno[2,3-c]pyridin-7(6H)-one | 0.76 g, 54% yield | S(N)(=O)(=O)C1=CC2=C(C(NC=C2)=O)S1 | C7H6N2O3S2
